US04236009
A solution of 159 ml. of n-butyl lithium in 100 ml. of hexane containing 47.7 g. of 3-methoxybromobenzene was stirred at -25° C. for twenty minutes and then was warmed to room temperature at which temperature it was stirred for one hour, thus providing 3-methoxyphenyllithium. The reaction mixture was chilled to 10° C. and stirred while a solution of 50 g. of 1-methyl-4-piperidone in 100 ml. of diethyl ether was added in dropwise fashion over a thirty minute period. Following the completion of the addition, the reaction mixture was stirred for two additional hours, and was then mixed with 50 ml. of saturated aqueous sodium chloride solution. The aqueous solution was extracted several times with diethyl ether, and the ethereal extracts were combined and concentrated to dryness to provide 38 g. of 1-methyl-4-hydroxy-4-(3-methoxyphenyl)piperidine formed in the above reaction.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 3-methoxybromobenzene | COC=1C=C(C=CC1)Br | C7H7BrO
reactant | 3-methoxyphenyllithium | COC=1C=C(C=CC1)[Li]
reactant | 1-methyl-4-piperidone | CN1CCC(CC1)=O | C6H11NO
reactant | sodium chloride | [Cl-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | hexane | 47.7 g | CCCCCC | C6H14
product | 1-methyl-4-hydroxy-4-(3-methoxyphenyl)piperidine | CN1CCC(CC1)(C1=CC(=CC=C1)OC)O | C13H19NO2
